US06034099
From the reaction of 4-(4-(2-ethylaniIinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid and diluted ammonia solution, 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzamide is obtained, Mp 170° C.

reactant | 4-(4-(2-ethylaniIinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzoic acid | C(C)C1=C(NC=C2C(=NN(C2=O)C2=CC=C(C(=O)O)C=C2)CCC)C=CC=C1 | C22H23N3O3
reactant | ammonia | N | H3N
product | 4-(4-(2-ethylanilinomethylene)-4,5-dihydro-5-oxo-3-propyl-1H-pyrazol-1-yl)-benzamide | C(C)C1=C(NC=C2C(=NN(C2=O)C2=CC=C(C(=O)N)C=C2)CCC)C=CC=C1 | C22H24N4O2
